US08039639B2
Step F: Preparation of 1-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea 72:
A solution of methyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate (4.6 g, 7.87 mmol) in methanol (0.1M, 80 mL) was treated with sodium borohydride (893 mg, 23.6 mmol) in portions at room temperature. The mixture was stirred at room temperature for 18 hours, and the solvent evaporated in vacuo to a dark yellow residue. The residue was distributed between dichloromethane and saturated aqueous NH4Cl. The organic layer was filtered through 1PS paper, evaporated in vacuo and purified in Biotage eluting with 2-10% iPrOH/DCM. Desired fractions were evaporated in vacuo to a white foam, 2.97 g (68%). MS (APCI+) m/z 557 (M+1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 8.29 (s, 1H), 7.97 (s, 1H), 7.68 (d, 1H, J=9.1 Hz), 7.35 (s, 1H), 6.85-7.4 (m, 8H), 6.24 (s, 1H), 4.87 (t, 1H, J=5.4 Hz), 4.43 (t, 1H, J=5.6 Hz), 4.28 (d, 1H, J=5.9 Hz), 3.80 (q, 1H, J=5.5 Hz), 2.35 (s, 3H), 1.25 (s, 9H).

reactant | methyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate | 7.87 mmol, 4.6 g | C(C)(C)(C)C1=NN(C(=C1)NC(NCC1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)OC)C=CC(=C1)F)=O)C1=CC=C(C=C1)C | C32H33FN6O4
reactant | sodium borohydride | 23.6 mmol, 893 mg | [BH4-].[Na+]
solvent | methanol | 0.1M, 80 mL | CO | CH4O
product | 1-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
